US05348977
N,N-Bis(2-chloroethyl)ethylenediamine (DCE) A solution of the above diol (2.96 g, 0.02 mol) in SOCl2 (150 mL) was stirred at room temperature for 48 h. Excess SOCl2 was then removed under reduced pressure, and the residue was dissolved in water and washed several times with EtOAc. The aqueous layer was evaporated to dryness under reduced pressure, and the resulting crude residue was crystallised from MeOH to give N,N-bis- (2-chloroethyl)-ethylenediamine dihydrochloride (DCE.2HCl) as hygroscopic white plates, mp 136° C. (Price, Kavas and Nakata, J. Med. Chem., 1965, 8, 650, record mp 139°-140° C.).

reactant | N,N-Bis(2-chloroethyl)ethylenediamine | ClCCN(CCN)CCCl | C6H14Cl2N2
solvent | SOCl2 | 150 mL | O=S(Cl)Cl | Cl2OS
product | N,N-bis- (2-chloroethyl)-ethylenediamine dihydrochloride | Cl.Cl.ClCCN(CCN)CCCl | InChI=1S/C6H14Cl2N2.2ClH/c7-1-4-10(5-2-8)6-3-9;;/h1-6,9H2;2*1H
